US07611692B2
1 N NaOH (11 mL; 11 mmol) was added to a solution of methyl 4-amino-3-chlorobenzoate (2 g; 10.8 mmol) in MeOH (20 mL) at 45° C. The reaction mixture was stirred for 5 h at 45° C. and overnight at room temperature. More 1N NaOH was added (5 mL; 5 mmol) and the reaction was stirred at 45° C. for 2 h. After concentration of solvent was added 1N HCl (16 ml). The solid precipitate was filtered and dried to give 4-amino-3-chlorobenzoic acid, C, as a with solid (1.75 g; 10.2 mmol). Yield 94.6%.

reactant | NaOH | 11 mmol, 1 N, 11 mL | [OH-].[Na+]
reactant | methyl 4-amino-3-chlorobenzoate | 10.8 mmol, 2 g | NC1=C(C=C(C(=O)OC)C=C1)Cl | C8H8ClNO2
reactant | NaOH | 1N | [OH-].[Na+]
reactant | HCl | 1N, 16 ml | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
product | 4-amino-3-chlorobenzoic acid | Yield 94.6% | NC1=C(C=C(C(=O)O)C=C1)Cl | C7H6ClNO2
